US06225309B1
Using an analogous procedure to that described in Example 20, 2-[2-(2-naphthalenesulphonamido)acetamido]-3-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]propionic acid was reacted with 4-methylpiperidine to give N-{1-(4-methylpiperidin-1-ylcarbonyl)-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}-2-(2-naphthalenesulphonamido)acetamide in 22% yield.

reactant | 2-[2-(2-naphthalenesulphonamido)acetamido]-3-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]propionic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NC(C(=O)O)CNC(=O)C1CCN(CC1)C1=CC=NC=C1 | C26H29N5O6S
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | N-{1-(4-methylpiperidin-1-ylcarbonyl)-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}-2-(2-naphthalenesulphonamido)acetamide | 22% yield | CC1CCN(CC1)C(=O)C(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)NC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C32H40N6O5S
